US04868177
N1 -Benzyl-1,2,3,4-tetrahydro-1,9-acridinediamine
A mixture of 9-amino-1,2,3,4-tetrahydroacridin-1-ol (7.19 g), benzylamine (14.7 ml) and p-toluensulfonic acid (7.6 g) in 250 ml of xylenes were refluxed with removal of water for eighteen hours.

reactant | 9-amino-1,2,3,4-tetrahydroacridin-1-ol | 7.19 g | NC=1C2=CC=CC=C2N=C2CCCC(C12)O | C13H14N2O
reactant | benzylamine | 14.7 ml | C(C1=CC=CC=C1)N | C7H9N
reactant | p-toluensulfonic acid | 7.6 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | water | O | H2O
product | N1 -Benzyl-1,2,3,4-tetrahydro-1,9-acridinediamine | C(C1=CC=CC=C1)NC1CCCC2=NC3=CC=CC=C3C(=C12)N | C20H21N3
